US04308378
Step B. Preparation of N-(2-Hydroxy-1,1-dimethylethyl)-2,4-dichloro-6-methoxybenzamide
A suspension of 2,4-dichloro-6-methoxybenzaldehyde (3 g, 15 mmol) and N-bromosuccinimide (3.6 g, 20 mmol) in carbon tetrachloride (30 ml) was illuminated with a 150 W flood lamp under nitrogen with vigorous stirring on a steam bath for seven minutes. The cloudy mixture was cooled to 0° C., diluted with methylene chloride (30 ml) and treated dropwise with a solution of 2-amino-2-methylpropanol (3 ml, 30 mmol) in methylene chloride (30 ml). The ice bath was removed and the mixture was stirred at 20° C. for twenty hours.

reactant | 2,4-dichloro-6-methoxybenzaldehyde | 15 mmol, 3 g | ClC1=C(C=O)C(=CC(=C1)Cl)OC | C8H6Cl2O2
reactant | N-bromosuccinimide | 20 mmol, 3.6 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-amino-2-methylpropanol | 30 mmol, 3 ml | NC(CO)(C)C | C4H11NO
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Hydroxy-1,1-dimethylethyl)-2,4-dichloro-6-methoxybenzamide | OCC(C)(C)NC(C1=C(C=C(C=C1OC)Cl)Cl)=O | C12H15Cl2NO3
